US08039480B2
365.0 mg of methyl (S)-2-[(6-azaspiro[2.5]octane-6-carbonyl)amino]-4,4-difluoropentanoate (1.2 mmol) were dissolved in a mixture of 10.8 ml of THF and 3.6 ml of methanol. 3.6 ml of an aqueous 1 M LiOH solution (3 eq.) were added to this solution. The mixture was stirred at 45° C. (bath temperature) for one hour and then 3.6 ml of 1 M HCl solution were added. The mixture was concentrated under reduced pressure and codistilled with DMF twice more. The (S)-2-[(6-azaspiro[2.5]octane-6-carbonyl)amino]-4,4-difluoropentanoic acid thus obtained was clean enough for the next reaction. Yield: 400 mg (quant.)

reactant | methyl (S)-2-[(6-azaspiro[2.5]octane-6-carbonyl)amino]-4,4-difluoropentanoate | 1.2 mmol, 365.0 mg | C1CC12CCN(CC2)C(=O)N[C@H](C(=O)OC)CC(C)(F)F | C14H22F2N2O3
reactant | LiOH | 1 M, 3 eq. | [Li+].[OH-]
reactant | HCl | 1 M, 3.6 ml | Cl | ClH
solvent | THF | 10.8 ml | C1CCOC1 | C4H8O
solvent | methanol | 3.6 ml | CO | CH4O
product | (S)-2-[(6-azaspiro[2.5]octane-6-carbonyl)amino]-4,4-difluoropentanoic acid | C1CC12CCN(CC2)C(=O)N[C@H](C(=O)O)CC(C)(F)F | C13H20F2N2O3
